US05686469
1-[2-(S)-[(Biphenyl-4-carbonyl )amino]-4-methylpentyl]-L-proline 4-Phenylbutylamide
Using the procedure described in Example 7, treatment of 1-[2-(S)-amino-4-methylpentyl]-L-proline 4-phenylbutylamide (112 mg) with 4-biphenyl carbonyl chloride (95 mg) provided 128 mg (83%) of the title compound. The 1H NMR and Mass spectrum analysis of this compound was consistent with the structure.

reactant | 1-[2-(S)-amino-4-methylpentyl]-L-proline 4-phenylbutylamide | 112 mg | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)N)=O | C21H35N3O
reactant | 4-biphenyl carbonyl chloride | 95 mg | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
product | 1-[2-(S)-[(Biphenyl-4-carbonyl )amino]-4-methylpentyl]-L-proline 4-Phenylbutylamide | 128 mg, 83% | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C34H43N3O2
